US07157487B2
Methyl (3-chloro-4-(6-methyl-2-benzothiazolyl)aminophenyl)acetate (274 mg, 0.79 mmol) was dissolved in THF (5 ml). To the resulting solution was added 0.5N NaOH (5.0 ml, 2.50 mmol), followed by stirring at room temperature for 15 hours. The reaction mixture was poured in ice-1N HCR. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (3-chloro-4-(6-methyl-2-benzothiazolyl)aminophenyl)acetic acid (202 mg, 77%) as a pale yellow solid.

reactant | Methyl (3-chloro-4-(6-methyl-2-benzothiazolyl)aminophenyl)acetate | 0.79 mmol, 274 mg | ClC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)C)CC(=O)OC | C17H15ClN2O2S
reactant | NaOH | 2.50 mmol, 0.5N, 5.0 ml | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (3-chloro-4-(6-methyl-2-benzothiazolyl)aminophenyl)acetic acid | 202 mg, 77% | ClC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)C)CC(=O)O | C16H13ClN2O2S
